US07217821B2
Malonic acid (72.8 g, 0.7 mol) and 2-methyl-4-pentanol(286 g, 2.8 mol) in 200 ml of toluene are refluxed for 2 hours in the presence of 1.8 ml of concentrated sulfuric acid in a reactor equipped with Dean-Stark apparatus. The water formed is removed azeotropically. The organic phase is washed three times with water and dried over sodium sulfate. This solution is filtered and the solvent is evaporated off. The product obtained distils at 147° C. under 20 hPa. 160 g (79% yield) of bis(1,3-dimethylbutyl) malonate are obtained in the form of a colorless oil, which is used in the next step without further purification.

reactant | Malonic acid | 0.7 mol, 72.8 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | 2-methyl-4-pentanol | 2.8 mol, 286 g | CC(C)CC(C)O | C6H14O
reactant | sulfuric acid | 1.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | bis(1,3-dimethylbutyl) malonate | 160 g, 79% yield | C(CC(=O)OC(CC(C)C)C)(=O)OC(CC(C)C)C | C15H28O4
